US07125901B2
tert-Butyl {4-[2-(2-(acetylamino)-5-{[(4-nitrobenzyl)amino]carbonyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate (135 mg) and TFA (2 ml) were combined at 0° C. The reaction mixture was stirred at room temperature for an hour, and concentrated in vacuo. The residue was dissolved in MeOH and CHCl3, and made basic (pH=8) by 1N—NaOH. The mixture was concentrated in vacuo. The residual solid was washed with water to give 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-N-(4-nitrobenzyl)-1,3-thiazole-5-carboxamide (92.5 mg) as a pale yellow solid.

reactant | tert-Butyl {4-[2-(2-(acetylamino)-5-{[(4-nitrobenzyl)amino]carbonyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate | 135 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)C(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C26H29N5O6S
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(acetylamino)-4-[2-(4-aminophenyl)ethyl]-N-(4-nitrobenzyl)-1,3-thiazole-5-carboxamide | 92.5 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)N)C(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C21H21N5O4S
